US07026478B2
A flame-dried two-necked flask is charged under argon with 4-chlorobenzoic acid methyl ester (0.5 g, 2.93 mmol), FeCl2 (19 mg, 0.15 mmol), THF (7 mL) and N-methylpyrrolidone (NMP, 1 mL). A solution of n-hexylmagnesium bromide (2M in Et2O, 1.9 mL, 3.8 mmol) is added via syringe to the resulting red solution, causing an immediate color change to dark brown and finally to violet. The resulting mixture is stirred for 5 min. Work-up as described above provides 4-hexylbenzoic acid methyl ester as a colorless syrup (90%). The spectroscopic and analytical data are identical to those compiled above.

reactant | 4-chlorobenzoic acid methyl ester | 2.93 mmol, 0.5 g | COC(C1=CC=C(C=C1)Cl)=O | C8H7ClO2
reactant | THF | 7 mL | C1CCOC1 | C4H8O
reactant | n-hexylmagnesium bromide | 3.8 mmol, 2M, 1.9 mL | C(CCCCC)[Mg]Br
solvent | N-methylpyrrolidone | 1 mL | CN1C(CCC1)=O | C5H9NO
product | 4-hexylbenzoic acid methyl ester | 90% | COC(C1=CC=C(C=C1)CCCCCC)=O | C14H20O2
